Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall with head injury
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old man with history of orthostatic
hypotension who is status post witnessed fall from standing with
___ minutes of unresponsiveness per the report of the family
following the event. The patient initially was brought to ___ by EMS at which time he has a CT which was
consistent with Subarachnoid/subdural hematoma and skull
fracture.  The patient was transferred here for further
evaluation and care. 

The patient arrives alone and reports that he is amnestic to the
event. Upon arrival, he is actively vomiting coffee ground
emesis. He denies headache,weakness, numbness, tingling
sensation, hearing or vision deficit. 

 
Past Medical History:
CABG  
postural hypotension
hypercholesterolemia  
arteriosclerosis 
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
O: T:96.2  BP: 122/69  HR:69    R:18   O2Sats:97%
Gen: comfortable
HEENT:small amount of red blood in oral pharynx. NO battle
sign/NO raccoon sign/No otorrhea/No rhinorrhea/No head 
laceration
Pupils: 3-2mm bilaterally        EOMs:intact
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam BUT SLOW 
to
follow commands, amnestic to the event
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension.
Naming intact. No dysarthria.
Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to2 
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift
Sensation: Intact to light touch bilaterally.
Toes downgoing bilaterally
.
Discharge exam: Expired 
 
Pertinent Results:
Admission labs:
___ 07:05PM BLOOD WBC-19.6*# RBC-4.23* Hgb-13.3* Hct-38.9* 
MCV-92 MCH-31.3 MCHC-34.1 RDW-12.9 Plt ___
___ 07:05PM BLOOD Neuts-86* Bands-1 Lymphs-3* Monos-10 
Eos-0 Baso-0 ___ Myelos-0
___ 07:05PM BLOOD ___ PTT-24.9* ___
___ 07:05PM BLOOD Glucose-165* UreaN-23* Creat-2.1* Na-140 
K-3.4 Cl-100 HCO3-25 AnGap-18
___ 10:35PM BLOOD CK(CPK)-102
___ 10:35PM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:17AM BLOOD CK-MB-2 cTropnT-0.01
___ 09:40PM BLOOD CK-MB-4 cTropnT-0.02*
___ 07:05PM BLOOD Calcium-9.4 Phos-2.9 Mg-2.5
___ 10:35PM BLOOD Phenyto-11.1
.
Imaging:
Head CT:
FINDINGS: There are bilateral acute subdural and subarachnoid 
hematoma primarily along the frontoparietal lobes, which is 
unchanged in extent compared to the previous examination from 
___. Given the pattern of hyperdense blood along the 
anterior cranial fossa, a component of parenchymal henmorrhagic 
contusion cannot be excluded. The ventricles and sulci are 
mildly prominent, likely representative of age-related atrophy. 
There is mild bihemispheric white matter hypoattenuation 
consistent with sequelae of small vessel ischemic disease. The 
visible paranasal sinuses show high-density fluid in the left 
frontal sinus. Leading into the left frontal sinus is a midline 
fracture of the frontal bone extending to the vertex. 
IMPRESSION: 
1. Stable bilateral frontoparietal subarachnoid and subdural 
hemorrhage with possible bifrontal contusions. 
2. Fracture of the frontal bone in the midline may extend into 
the frontal 
sinus and places the patient at risk for a CSF leak. 

 
Brief Hospital Course:
___ male with past medical history significant for orthostatic 
hypotension s/p fall with bilateral frontal contusions SAD/SDH 
and skull fracture being transferred to the MICU with 
seizure-like activity, minimally responsive, profuse diarrhea, 
febrile, hyponatremia and hyperkalemia.
.
# Altered Mental Status: Felt to be multifactorial due to 
worsening hypernatremia, underlying seizure disorder, head 
bleeds, and possible viral infection (suspected norovirus given 
profuse diarrhea). Serial head CTs showed the subdural bleeds 
were stable. Though there was concern for ongoing status 
epilepticus, he was monitored on continuous EEG without evidence 
of seizures, just generalized slowing. Patient was continued on 
dilantin and keppra. Per neurology, patient was felt to loss of 
brainstem reflexes felt to be related to trauma. Given the small 
chance of neurologic recovery, goals of care were discussed with 
family and he was transitioned to CMO. The patient passed away 
during the admission while on CMO. 
.
# Code Staus: Transitioned from Full code to CMO given poor 
neurologic prognosis.

Addendum:  Patient passed away on the medical floor overnight, 
prior to initial evaluation by Dr. ___ attending). 
 
Medications on Admission:
1. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY  
2. fludrocortisone 0.1 mg Tablet Sig: one-half Tablet PO DAILY  
3. rosuvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY  
4. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily) as needed for constipation.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
7. midodrine 5 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
8. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet,  

Chewable PO once a day.  
.  

 
Discharge Medications:
Expired 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired 
 
Discharge Condition:
Expired 
 
Discharge Instructions:
Expired 
 
Followup Instructions:
___